US05420158
N-[2-(1-naphthyl)-2-(methoxycarbonyl)ethyl]-N'-propylurea
0.011 mol of propyl isocyanate is added dropwise and with magnetic stirring to a suspension of 0.01 mol of 2-(1-naphthyl)-2-(methoxycarbonyl)ethylamine hydrochloride, obtained in stage B of Example 11, in 5 cm3 of pyridine. The reaction medium is stirred for 1 hour at a temperature of 80° C. and then poured into ice-cold water. The mixture is acidified with 1N hydrochloric acid solution. The precipitate formed is drained, washed with water, dried and then recrystallized in a toluene/cyclohexane mixture.

reactant | propyl isocyanate | 0.011 mol | C(CC)N=C=O | C4H7NO
reactant | 2-(1-naphthyl)-2-(methoxycarbonyl)ethylamine hydrochloride | 0.01 mol | Cl.C1(=CC=CC2=CC=CC=C12)C(CN)C(=O)OC
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | pyridine | 5 cm3 | N1=CC=CC=C1 | C5H5N
product | N-[2-(1-naphthyl)-2-(methoxycarbonyl)ethyl]-N'-propylurea | C1(=CC=CC2=CC=CC=C12)C(CNC(=O)NCCC)C(=O)OC | C18H22N2O3
